US07718693B2
1,1-dimethylethyl 1-(2-methyl-2-propen-1-yl)-5-oxoprolinate (0.099 g, 0.41 mmol) was dissolved in a mixture of dichloromethane (2 ml) and trifluoroacetic acid (2 ml) and stirred overnight at room temperature. The solvent was evaporated (azeotroping with toluene to remove traces of trifluoroacetic acid) to give crude 1-(2-methyl-2-propen-1-yl)-5-oxoproline as a brown oil which was used without further purification.

reactant | 1,1-dimethylethyl 1-(2-methyl-2-propen-1-yl)-5-oxoprolinate | 0.41 mmol, 0.099 g | CC(CN1[C@H](C(=O)OC(C)(C)C)CCC1=O)=C | C13H21NO3
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(2-methyl-2-propen-1-yl)-5-oxoproline | CC(CN1[C@H](C(=O)O)CCC1=O)=C | C9H13NO3
